US04808620
To a solution of 7.8 g of 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine in 40 ml of dimethylformamide are added 4.9 g of potassium carbonate and 7.2 g of 2-methoxyethyl p-toluenesulfonate, and the mixture is stirred at 60° C. for 7 hours. The resulting mixture is poured into ice-cold water and the precipitate is extracted with toluene. The extract is washed with water, dried and concentrated. The residue is recrystallized from hexane to give 7.2 g of 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1-(2-methoxyethyl)-1H-pyrazolo[3,4-b]pyridine as white crystals, melting at 111°-113° C.

reactant | 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine | 7.8 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NNC2=NC=CC=C21 | C20H25N3O
reactant | potassium carbonate | 4.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyethyl p-toluenesulfonate | 7.2 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOC)C | C10H14O4S
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1-(2-methoxyethyl)-1H-pyrazolo[3,4-b]pyridine | 7.2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NN(C2=NC=CC=C21)CCOC | C23H31N3O2
